US07452911B2
3.73c 5-(4-chloro-phenyl)-2-[4-(3-pyrrolidin-1-yl-prop-1-ynyl)-phenylethynyl]-pyridine
Prepared according to general working method I from 1-[3-(4-iodo-phenyl)-prop-2-ynyl]-pyrrolidine (230 mg, 75%, 0.55 mmol) and 5-(4-chloro-phenyl)-2-ethynyl-pyridine (118 mg, 0.55 mmol).

reactant | 1-[3-(4-iodo-phenyl)-prop-2-ynyl]-pyrrolidine | 0.55 mmol, 230 mg | IC1=CC=C(C=C1)C#CCN1CCCC1 | C13H14IN
reactant | 5-(4-chloro-phenyl)-2-ethynyl-pyridine | 0.55 mmol, 118 mg | ClC1=CC=C(C=C1)C=1C=CC(=NC1)C#C | C13H8ClN
product | 5-(4-chloro-phenyl)-2-[4-(3-pyrrolidin-1-yl-prop-1-ynyl)-phenylethynyl]-pyridine | ClC1=CC=C(C=C1)C=1C=CC(=NC1)C#CC1=CC=C(C=C1)C#CCN1CCCC1 | C26H21ClN2
